US05589473
A solution of 985 mg of (R)-2-[2-amino-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanyl -methyl]-3-[dimethyl-(1,1,2-trimethyl-propyl) -silanyloxy]-5-methoxy-6-methyl-benzoic acid methyl ester and 237 mg of 2-fluoroimidazole hydrochloride in 5 ml of N,N-dimethylformamide were stirred under argon at 50° C. for 3 h. A second portion of 117 mg of 2-fluoroimidazole hydrochloride was added and stirring was continued for 6 h. The reaction mixture was cooled and the solvent evaporated in vacuo. The residue was purified by silica gel chromatography using methanol/dichloromethane (1:20, v/v) as eluent to yield 310 mg of (R)-3-hydroxy-2-[2-(imidazol-2-ylamino)-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanylmethyl]-5-methoxy-6-methyl-benzoic acid methyl ester hydrochloride as yellow solid.

reactant | (R)-2-[2-amino-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanyl -methyl]-3-[dimethyl-(1,1,2-trimethyl-propyl) -silanyloxy]-5-methoxy-6-methyl-benzoic acid methyl ester | 985 mg | COC(C1=C(C(=CC(=C1C)OC)O[Si](C(C(C)C)(C)C)(C)C)CSC[C@@H](C1=NC(=NO1)C)N)=O | C24H39N3O5SSi
reactant | 2-fluoroimidazole hydrochloride | 237 mg | Cl.FC=1NC=CN1
reactant | 2-fluoroimidazole hydrochloride | 117 mg | Cl.FC=1NC=CN1
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (R)-3-hydroxy-2-[2-(imidazol-2-ylamino)-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanylmethyl]-5-methoxy-6-methyl-benzoic acid methyl ester hydrochloride | 310 mg | Cl.COC(C1=C(C(=CC(=C1C)OC)O)CSC[C@@H](C1=NC(=NO1)C)NC=1NC=CN1)=O | InChI=1S/C19H23N5O5S.ClH/c1-10-15(27-3)7-14(25)12(16(10)18(26)28-4)8-30-9-13(17-22-11(2)24-29-17)23-19-20-5-6-21-19;/h5-7,13,25H,8-9H2,1-4H3,(H2,20,21,23);1H/t13-;/m0./s1
